US05486512
To a solution of 1 g of 1,3-dichloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one in 15 mL of triethylsilane was added 8 g of anhydrous zinc chloride and the mixture was refluxed under nitrogen with vigorous stirring. The triethylsilane was replenished in about 8-hour intervals. When the reaction was judged complete by TLC (300:25:1 chloroform:methanol: 28% aqueous ammonia, basified aliquot) the excess of triethylsilane and other volatiles were removed in vacuo and the residue was purified and worked-up as in Method A to give the desired 1,3-dichloro-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazoline hydrochloride as white crystalline solid.

reactant | 1,3-dichloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one | 1 g | ClC1=C2C(N3C(=NC2=CC(=C1)Cl)CCCCC3)=O | C13H12Cl2N2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
reactant | ammonia | N | H3N
solvent | triethylsilane | 15 mL | C(C)[SiH](CC)CC | C6H16Si
catalyst | zinc chloride | 8 g | [Cl-].[Zn+2].[Cl-]
product | 1,3-dichloro-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazoline hydrochloride | Cl.ClC1=C2CN3C(=NC2=CC(=C1)Cl)CCCCC3 | InChI=1S/C13H14Cl2N2.ClH/c14-9-6-11(15)10-8-17-5-3-1-2-4-13(17)16-12(10)7-9;/h6-7H,1-5,8H2;1H
